US05981533
3-[4-(N-BOC-Amino)-phenylamino]-4-cyano-5-(ethoxy-methyleneamino)-pyrazole
With stirring, a mixture of 13.8 g (43.9 mmol) of 5-amino-3-[4-(N-BOC-amino)-phenylamino]-4-cyano-pyrazole and 138 ml of orthoformic acid triethyl ester is heated at 120° C. for 3 hours, care being taken to ensure that the ethanol formed in the course of the reaction is distilled off from the reaction mixture. Cooling to RT, filtering and washing the filter residue with ethanol yield the title compound; m.p. 180-182° C.

reactant | 5-amino-3-[4-(N-BOC-amino)-phenylamino]-4-cyano-pyrazole | 43.9 mmol, 13.8 g | NC1=C(C(=NN1)NC1=CC=C(C=C1)NC(=O)OC(C)(C)C)C#N | C15H18N6O2
reactant | orthoformic acid triethyl ester | 138 ml | C(C)OC(OCC)OCC | C7H16O3
solvent | ethanol | C(C)O | C2H6O
product | 3-[4-(N-BOC-Amino)-phenylamino]-4-cyano-5-(ethoxy-methyleneamino)-pyrazole | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)NC1=NNC(=C1C#N)N=COCC | C18H22N6O3
